US06166015
Proceeding as described above but substituting 4-(2,5-dimethylphenyl)-4-oxobutyric acid with 2-(3,4-methylenedioxyphenyl)acetic acid and 3-aminomethyl-1-(3,4-dichlorobenzyl)pyrrolidine with 3-aminomethyl-1-(3,4-methylenedioxybenzyl)pyrrolidine gave N-[1-(3,4-methylenedioxybenzyl)pyrrolidin-3-(RS)-ylmethyl]-2-(3,4-methylenedioxyphenyl)acetamide.

reactant | 2-(3,4-methylenedioxyphenyl)acetic acid | C1OC=2C=C(C=CC2O1)CC(=O)O | C9H8O4
reactant | 3-aminomethyl-1-(3,4-dichlorobenzyl)pyrrolidine | NCC1CN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C12H16Cl2N2
reactant | 3-aminomethyl-1-(3,4-methylenedioxybenzyl)pyrrolidine | NCC1CN(CC1)CC1=CC2=C(C=C1)OCO2 | C13H18N2O2
product | N-[1-(3,4-methylenedioxybenzyl)pyrrolidin-3-(RS)-ylmethyl]-2-(3,4-methylenedioxyphenyl)acetamide | C1OC=2C=C(CN3CC(CC3)CNC(CC3=CC4=C(C=C3)OCO4)=O)C=CC2O1 | C22H24N2O5
